US05190959
The procedure of Example 36 (a) was repeated except for using phenyl-2-thienylmethyl chloride and 4-hydroxy-1-[3-methyl-3-(2-nitrophenoxy)propyl]piperidine instead of phenyl-2-thienylmethyl chloride and 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine to give oily 4-(phenyl-2-thienylmethoxy)-1-[3-(2-nitrophenoxy)-3-methylpropyl]piperidine.

reactant | phenyl-2-thienylmethyl chloride | C1(=CC=CC=C1)C(C=1SC=CC1)Cl | C11H9ClS
reactant | 4-hydroxy-1-[3-methyl-3-(2-nitrophenoxy)propyl]piperidine | OC1CCN(CC1)CCC(OC1=C(C=CC=C1)[N+](=O)[O-])C | C15H22N2O4
reactant | 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine | OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-] | C14H20N2O4
product | 4-(phenyl-2-thienylmethoxy)-1-[3-(2-nitrophenoxy)-3-methylpropyl]piperidine | C1(=CC=CC=C1)C(OC1CCN(CC1)CCC(C)OC1=C(C=CC=C1)[N+](=O)[O-])C=1SC=CC1 | C26H30N2O4S
